US07071182B2
dimethyl-{3-(6-nitro-indazol-1-yl)-propyl}-amine
A mixture of 6-nitro-1H-indazole (0.500 g, 3.07 mmol) and potassium carbonate (0.889 g, 6.44 mmol) in 15.3 mL of DMF was stirred for 30 minutes after which (3-chloro-propyl)-dimethyl-amine hydrochloride (0.553 g 3.50 mmol) was added. The reaction mixture was then heated to 60° C. for 6 hours, cooled to room temperature and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-D6) δ ppm 1.97 (m, 2 H), 2.10 (m, 6 H), 2.14 (m, 2 H), 4.58 (t, J=6.78 Hz, 2 H), 7.99 (m, 2 H), 8.32 (m, 1 H), 8.74 (m, 1 H); MS (DCI/NH3) m/z 249 [M+H]+.

reactant | 6-nitro-1H-indazole | 3.07 mmol, 0.500 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | potassium carbonate | 6.44 mmol, 0.889 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3-chloro-propyl)-dimethyl-amine hydrochloride | 3.50 mmol, 0.553 g | Cl.ClCCCN(C)C
solvent | DMF | 15.3 mL | CN(C)C=O | C3H7NO
product | dimethyl-{3-(6-nitro-indazol-1-yl)-propyl}-amine | CN(CCCN1N=CC2=CC=C(C=C12)[N+](=O)[O-])C | C12H16N4O2
